US08105807B2
Preparation of (S)-2-amino-3-(2-oxocyclopentyl)propanoic acid
3-(2-oxocyclopentyl)-2-ureidopropanoic acid (10.0 g, 46.7 mmol) was suspended in water (80 mL) and the pH was adjusted to 8.0 with 10.8 N NaOH aq. Then, MnCl2 solution (5 mL, 100 mmol/L) was added and the solution was flushed with N2 for 15 min. Then 40 g of wet cell slurry obtained according to ‘Expression of Hyu genes in Escherichia coli RV308’ (see above) was added. The reaction was stirred at 38° C. for 16 h, after which time TLC indicated complete conversion to product. During this period, the pH was kept constant at 8.0 by addition of 5N H3PO4 aq. The reaction mixture was then centrifuged (12.000 rpm) and the clear liquid was separated from the remaining cell mass. The pH of the liquid was adjusted to ca. 1.0 with 37% HCl aq., which caused proteins to precipitate. This mixture was centrifuged for a second time (12.000 rpm) and the clear solution was collected. After charcoal treatment (0.5 g active carbon) and microfiltration (0.45μ), the solution was loaded on an ion-exchange resin (Amberlyst 15, 80 mL/144 meq.). Elution was initially done with water to neutral pH to remove impurities. Then, the amino acid was eluted with 2N NH3 aq. and water to neutral pH. These aqueous fractions were combined, the pH was brought to ca. 7 with 37% HCl aq. and water was removed in vacuo at 50° C., affording a light brown solid. The product amino acid has the S configuration at C2 with >99% ee (the other chiral center C4 is scrambled).

reactant | 3-(2-oxocyclopentyl)-2-ureidopropanoic acid | 46.7 mmol, 10.0 g | O=C1C(CCC1)CC(C(=O)O)NC(=O)N | C9H14N2O4
reactant | NaOH | 10.8 N | [OH-].[Na+]
reactant | H3PO4 | 5N | OP(=O)(O)O | H3O4P
solvent | water | 80 mL | O | H2O
product | (S)-2-amino-3-(2-oxocyclopentyl)propanoic acid | N[C@H](C(=O)O)CC1C(CCC1)=O | C8H13NO3
